US08236826B2
Production of 4-cyano-N-[6-(4-hydroxymethylphenoxy)-pyridin-3-yl]benzamide
A suspension of 4-[5-(4-cyanobenzoylamino)-pyridin-2-yloxy]benzoic acid (1.80 g, 5.01 mmol) in THF (20 mL) was cooled with ice-common salt, and to the solution was added triethylamine (0.77 mL, 5.51 mmol), and then ethyl chlorformate (0.53 mL, 5.51 mmol). The resulting solution was stirred at room temperature. Thirty minutes later, the reaction solution was filtered and insoluble matter was removed. The resulting filtrate was poured while stirring under ice cooling into an aqueous solution of sodium borohydride (0.95 g, 25.05 mmol) in 80% methanol (40 mL). After stirring for 30 minutes at room temperature, water (200 mL) was added to the reaction solution. The obtained mixture was extracted with ethyl acetate (200 mL). The ethyl acetate layer was washed with brine, dried over anhydrous sodium sulfate, and evaporated under reduced pressure. The residue was recrystallized from a mixed solution of ethyl acetate-n-hexane, to thereby yield 1.26 g of the title compound.

reactant | 4-[5-(4-cyanobenzoylamino)-pyridin-2-yloxy]benzoic acid | 5.01 mmol, 1.80 g | C(#N)C1=CC=C(C(=O)NC=2C=CC(=NC2)OC2=CC=C(C(=O)O)C=C2)C=C1 | C20H13N3O4
reactant | triethylamine | 5.51 mmol, 0.77 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorformate | 5.51 mmol, 0.53 mL | ClC(=O)OCC | C3H5ClO2
reactant | sodium borohydride | 25.05 mmol, 0.95 g | [BH4-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | methanol | 40 mL | CO | CH4O
solvent | water | 200 mL | O | H2O
product | 4-cyano-N-[6-(4-hydroxymethylphenoxy)-pyridin-3-yl]benzamide | C(#N)C1=CC=C(C(=O)NC=2C=NC(=CC2)OC2=CC=C(C=C2)CO)C=C1 | C20H15N3O3
